US04925591
In a mixed solvent of methanol and tetrahydrofuran was dissolved 5.17 g of 4-hydroxy-3-chlorobenzoic acid, and a solution of 2.4 g of sodium hydroxide in 5 ml of water was added to the solution. Then, 10 ml of benzyl chloride was added to the mixture and the liquid was refluxed for 4 hours. Then, 1.2 g of sodium hydroxide was further added to the mixture, the liquid was refluxed for 2 hours, and the reaction liquid was put into 1N hydrochloric acid, and the precipitate was recovered by filtration, washed with water, methanol and n-pentane in succession and recrystallized from a mixed solvent of benzene and tetrahydrofuran to obtain 2.7 g of 4-benzyloxy-3-chlorobenzoic acid. Then, 15 g of thionyl chloride was added to 2.7 g of this 4-benzyloxy-3-chlorobenzoic acid, and the mixture was reacted under reflux and reacted for 3 hours. Unreacted thionyl chloride was removed by distillation under reduced pressure. Thus, 4-benzyloxy-3-chlorobenzoic acid chloride was quantitatively obtained.

reactant | thionyl chloride | 15 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-benzyloxy-3-chlorobenzoic acid | 2.7 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)Cl | C14H11ClO3
product | 4-benzyloxy-3-chlorobenzoic acid chloride | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)Cl)C=C1)Cl | C14H10Cl2O2
